US07524847B2
3-(2-Butynyl)-4-chloro-1-methyl-1,3-dihydroimidazo[4.5-c]pyridin-2-one
Potassium carbonate (1.17 g) and 1-bromo-2-butyne (0.742 mL) were added to a solution of 4-chloro-1-methyl-1,3-dihydroimidazo[4.5-c]pyridin-2-one in N,N-dimethylformamide (50 mL). This was then stirred at room temperature for 16 hours. Ethyl acetate (300 mL) and water (200 mL) were added, and the organic layer was washed twice with 200 mL of water and then once with 200 mL of saturated aqueous sodium chloride solution, then was dried over anhydrous magnesium sulfate. The organic layer was filtered and concentrated under reduced pressure, and the residue was purified by silica gel chromatography. The ethyl acetate:hexane 3:2 fraction gave the title compound (0.980 g).

reactant | Potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-butyne | 0.742 mL | BrCC#CC | C4H5Br
reactant | 4-chloro-1-methyl-1,3-dihydroimidazo[4.5-c]pyridin-2-one | ClC1=NC=CC2=C1NC(N2C)=O | C7H6ClN3O
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 3-(2-Butynyl)-4-chloro-1-methyl-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 0.980 g | C(C#CC)N1C(N(C2=C1C(=NC=C2)Cl)C)=O | C11H10ClN3O
